Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vision changes  
 
Major Surgical or Invasive Procedure:
___ placement ___

 
History of Present Illness:
___ year-old man with past medical history significant for HIV 
(on HAART, last CD4 797, VL undetectable), depression/anxiety 
who presents with R vision changes.  
 He was first evaluated by ophthalmology clinic on ___ for 
central vision loss in early ___. Exam at that time notable for 
relative afferent pupillary defect and a central scotoma 
concerning for retrobulbar optic neuropathy. MRI head/orbit was 
negative for mass lesion, demyelination or other lesions. 
FTA-ABS and RPR were both positive, however. Per ophthalmology 
note, "As there were no cells in the anterior chamber or the 
vitreous, this patient does not have syphilitic uveitis, but 
rather, luetic optic neuropathy which would indicate CNS 
syphilis." After discussion with ID, patient was referred to ED 
for further evaluation.  
 In the ED, initial vitals were: 87 135/86 14 100% RA  
 Exam notable for: Sluggish constriction on R pupil, pain on 
looking up and out with right eye.  
 Labs notable for: Cr 1.5, Hgb 11.3.  
 ID was consulted and recommended inpatient admission with 
deferral of IV PCN & LP to AM.  
 Vitals prior to transfer: 83 118/75 16 100% RA  
 On the floor, ROS also positive for malaise, photophobia in R 
eye, neck stiffness, as well as enlarged lymph nodes on right 
neck. He has generally been feeling unwell for one year. ROS 
negative for fever, chills, weight loss, confusion, chest pain, 
sob, nausea, vomiting, abdominal pain, numbness, or tingling. 
Also negative for imbalance, falls, rash of any kind.  
 ROS: As per HPI; otherwise full 10-point ROS negative.  
 

 
Past Medical History:
 HIV (diagnosed in ___, presumed sexual transmission, 
CD4 797 in ___, VL undetectable in ___  
 Depression  
 Anxiety  
 Hemorrhoids  
 History of bulimia  
 Central serous retinopathy in R eye (___)  
 MEDICATIONS:  
 Stribild qd  
 Fluoxetine 40 mg qd  
 
 
Social History:
___
Family History:
 Mother has hypertension. Father has glaucoma. Brother has a 
heart murmur. 
 
Physical Exam:
ADMISSION EXAM:
===============
Vital Signs:  T 99.3 BP 130/84 80 18 100RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, Right 
relative afferent pupil defect. Left pupil round, reactive to 
light. Neck supple, JVP not elevated  
Lymph: 1 cm and subcentimeter firm, non-tender, mobile LNs along 
inferior aspect of cervical chain. Remaining neck without LAD. 
No axillary LAD bilaterally.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. No hepatosplenomegaly 
present.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait normal, 
negative Romberg. Finger-to-nose and heel-to-shin intact 
bilaterally  
Skin: Scattered pustules/maculopapular rash over back, central 
chest and bilateral shoulders (chronic per pain). No other 
cutaneous or mucocutaneous lesions noted.  

DISCHARGE EXAM:
===============
Vital Signs: T:98.2 Tm:98.3 BP:128/75 (110-128/43-81) HR:85 
RR:18 O2:100 RA
General: Alert, oriented, lying comfortably in bed, no acute 
distress  
HEENT: Sclera anicteric, EOMI, Right afferent pupil slightly 
slower to react, left pupil round, reactive to light, R eye: 
only mild discomfort when gazing R and out, no photophobia
Cardiac: RRR, no murmurs appreciated
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, +BS 
Ext: Warm, well perfused, no edema, +2 distal pulses
Neuro: CNII-XII intact, moving all extremities, gait deferred
Skin: no erythematous patches visible 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:10PM   ___ PTT-30.4 ___
___ 09:10PM   PLT COUNT-351
___ 09:10PM   NEUTS-56.6 ___ MONOS-11.2 EOS-2.3 
BASOS-0.5 IM ___ AbsNeut-4.26 AbsLymp-2.20 AbsMono-0.84* 
AbsEos-0.17 AbsBaso-0.04
___ 09:10PM   WBC-7.5 RBC-4.69 HGB-11.3* HCT-37.5* MCV-80* 
MCH-24.1* MCHC-30.1* RDW-15.2 RDWSD-43.8
___ 09:10PM URINE  GR HOLD-HOLD
___ 09:10PM URINE  UHOLD-HOLD
___ 09:10PM URINE  HOURS-RANDOM
___ 09:10PM URINE  HOURS-RANDOM
___ 09:10PM   URIC ACID-6.3
___ 09:10PM   LD(LDH)-181
___ 09:10PM   GLUCOSE-84 UREA N-16 CREAT-1.5* SODIUM-135 
POTASSIUM-4.7 CHLORIDE-100 TOTAL CO2-27 ANION GAP-13
___ 10:30AM BLOOD calTIBC-341 Ferritn-15* TRF-262
___ 03:35PM CEREBROSPINAL FLUID (CSF) WBC-34 RBC-2* 
Polys-16 ___ ___ 03:35PM CEREBROSPINAL FLUID (CSF) WBC-31 RBC-19* 
Polys-22 ___ ___ 03:35PM CEREBROSPINAL FLUID (CSF) TotProt-63* 
Glucose-51

MICRO:
=====
___ 2:51 pm CSF;SPINAL FLUID      Source: LP TUBE 3. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary): 

IMAGING:
=======
MRI ___:
1. Unremarkable MRI of the orbits.

LABS ON DISCHARGE:
===================
___ 07:10AM BLOOD WBC-6.0 RBC-4.45* Hgb-10.7* Hct-35.7* 
MCV-80* MCH-24.0* MCHC-30.0* RDW-15.5 RDWSD-44.9 Plt ___
___ 09:10PM BLOOD Neuts-56.6 ___ Monos-11.2 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-4.26 AbsLymp-2.20 AbsMono-0.84* 
AbsEos-0.17 AbsBaso-0.04
___ 07:10AM BLOOD Glucose-88 UreaN-9 Creat-0.8 Na-135 K-4.1 
Cl-98 HCO3-25 AnGap-16
___ 07:10AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.___RIEF SUMMARY:
==============
___ with h/o HIV (on HAART), depression/anxiety presenting with 
R central vision changes x1 month and positive RPR/treponemal 
tests concerning for ocular syphilis.

ACUTE ISSUES:
=============
# Vision changes: Started on IV PCN G 3milunits q4h x14 days 
(___) after LP. CSF VDRL reactive consistent with 
neurosyphilis. CSF viral and fungal cultures, as well as, TPA 
pending. 
 
#Fever: developed a low grade fever after initiating PCN, likely 
___ Jarisch Herxheimer reaction, which resolved. He remained 
hemodynamically stable.

#Rash: developed erythematous, non-pruritic rash along the arms 
bilaterally after initiating PCN, likely ___ Jarisch Herxheimer 
reaction. Considered PCN allergic reaction though rash was 
non-urticarial and non-pruritic. He was premedicated with 
Benadryl before PCN infusions. Rash resolved by discharge.

# Malaise: Mr ___ notes malaise over the past year possibly 
concerning for secondary syphilis. He also has a h/o hemorrhoids 
with episodic bleeding. Iron studies were consistent with iron 
deficiency anemia, which might be contributing to fatigue. H/H 
on admission of 11.___.5, which stabilized to 10.7/35.7.

# HIV, well-controlled: Continued on home stribild  

# Elevated creatinine: On admission Cr 1.5. Baseline Cr of 
0.8-1.0. Pt did not appear hypovolemic, but did endorse 
decreased PO intake associated with malaise, suggesting some 
degree of volume depletion as cause for ___. Repeat Cr 
normalized to 0.8.

TRANSITIONAL ISSUES:
====================
[ ] Pt to follow-up with ophthalmology as outpatient
[ ] Pt was noted to have iron deficiency anemia. Recommend 
outpatient workup and iron supplementation.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Stribild 1 TAB PO DAILY 
2. FLUoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  DiphenhydrAMINE 12.5 mg PO Q4H:PRN rash with abx 
administration 
RX *diphenhydramine HCl [Allergy (diphenhydramine)] 25 mg ___ 
tablet(s) by mouth every four hours as needed Disp #*60 Tablet 
Refills:*0 
2.  Penicillin G Potassium 3 Million Units IV Q4H Duration: 13 
Days 
RX *penicillin G pot in dextrose 3 million unit/50 mL 50 mL IV 
every four (4) hours Disp #*70 Intravenous Bag Refills:*0 
3.  FLUoxetine 40 mg PO DAILY  
4.  Stribild 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Ocular syphilis

Secondary diagnoses:
HIV
Depression/anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ due to one month of eye changes, 
concerning for syphilis infection involving your eye. While you 
were here, you had a lumbar puncture ("spinal tap") which was 
done to confirm the infection. After this was done, you were 
started on IV antibiotics. You will need to continue this 
antibiotic (penicillin) for a total of 14 days (___). 
You had a PICC line placed for this. You will have a 
prescription for Benadryl that you can take with infusions or as 
needed if a rash or itching develops again. Please call your 
doctor if your rash worsens or does not improve.

You appointments with your PCP and ophthalmologist below. You 
will also need to follow up with the infectious disease doctors.

___ you for allowing us to participate in your care. We wish 
you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___